US04431650
Part A: Synthesis of 2-chloromethylbenzofuran
A 1 l R.B. flask was equipped with a mechanical stirrer, addition funnel, and gas inlet tube. The flask was charged with 212 ml of conc. HCl, 127 ml of benzene, and 38.14 g of paraformaldehyde, then cooled to 0° C. and saturated with hydrogen chloride gas. While maintaining the temperature at 0°-1° C. add the 50.0 g (0.423 mol) of 2,3-benzofuran in a slow dropwise fashion. When the addition was complete, the mixture was stirred 21/2-3 hours at room temperature.

reactant | HCl | 212 ml | Cl | ClH
reactant | paraformaldehyde | 38.14 g | C=O | CH2O
reactant | 2,3-benzofuran | 0.423 mol, 50.0 g | C1=CC=C2C(=C1)C=CO2 | C8H6O
solvent | benzene | 127 ml | C1=CC=CC=C1 | C6H6
product | 2-chloromethylbenzofuran | ClCC=1OC2=C(C1)C=CC=C2 | C9H7ClO
